US06124284
A solution of butyllithium, 2.5M in hexanes (166 ml, 0.416 mol, Aldrich) was added dropwise over 0.5 hr, with rapid mechanical stirring, to a solution of triethyl phosphonoacetate (93.2 g, 0.416 mol, Aldrich) in tetrahydrofuran (700 ml, anhydrous, Aldrich) at <5° C. while blanketed with a nitrogen atmosphere. This solution was stirred for an additional 0.25 hr and cooled to -5° C. with a methanol:ice bath and a solution of 4'-fluorobutyrophenone (69 g, 0.416 mol, Aldrich) in tetrahydrofuran (150 ml) was then added in one portion. Stirring was continued for 18 hr without additional cooling. The solution was concentrated to a dark camel sludge by spin evaporation in vacuo and diluted to 600 ml with deionized water. The aqueous solution was extracted with dichloromethane (5×500 ml) and the dichloromethane was concentrated by spin evaporation in vacuo. Distillation at reduced pressure gave 58.5 g (60%) of ethyl 3-(4-fluorophenyl)hexenoate as a mixture of (E) and (Z) isomers (ratio 1:1) as clear liquid b.p. 140-150° C. at aspirator pressure:

reactant | butyllithium | C(CCC)[Li]
reactant | methanol | CO | CH4O
reactant | 4'-fluorobutyrophenone | 0.416 mol, 69 g | FC1=CC=C(C=C1)C(CCC)=O | C10H11FO
reactant | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | ethyl 3-(4-fluorophenyl)hexenoate | 58.5 g, 60% | FC1=CC=C(C=C1)C(=CC(=O)OCC)CCC | C14H17FO2
